US08471005B2
Into a Microwave vial, [5-Bromo-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (0.151 g, 0.000306 mol), Zinc Cyanide (0.0719 g, 0.000612 mol), Copper(I) iodide (5.8 mg, 0.000031 mol) and Tetrakis(triphenylphosphine)palladium(0) (35 mg, 0.000031 mol) were added and purged with nitrogen for 10 minutes. N,N-Dimethylformamide (3.00 mL, 0.0387 mol) was added. The reaction was microwaved on 300 watts, 150° C. for 60 minutes. The solvent was removed under vacuum. The reaction was purified via ISCO column chromatography with DCM and MeOH as eluant (0 to 10% methanol). The collected fractions afforded 7-(2-Methoxy-phenyl)-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazine-5-carbonitrile a yellow solid (62 mg, 46%). LCMS (E/I+) 440.18M+H). NMR 1H (DSMO-d6)-9.59 (s, 1H), 9.20 (s, 1H), 7.72 (dd, 1H, J=1.64, 6.00 Hz), 7.46-7.57 (m, 3H), 7.43 (s, 1H), 7.42 (d, 1H, J=8.33 Hz), 7.13 (t, 1H, J=7.56 Hz), 6.80 (d, 2H, J=9.13 Hz), 3.79 (s, 3H), 3.04 (t, 4H, J=4.64, 2.43 (t, 4H, J=4.84), 2.21 (s, 3H).

reactant | [5-Bromo-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.000306 mol, 0.151 g | BrC=1C=C(N2N=C(N=CC21)NC2=CC=C(C=C2)N2CCN(CC2)C)C2=C(C=CC=C2)OC | C24H25BrN6O
reactant | N,N-Dimethylformamide | 0.0387 mol, 3.00 mL | CN(C=O)C | C3H7NO
catalyst | Zinc Cyanide | 0.000612 mol, 0.0719 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Copper(I) iodide | 0.000031 mol, 5.8 mg | [Cu]I
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.000031 mol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(2-Methoxy-phenyl)-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazine-5-carbonitrile | COC1=C(C=CC=C1)C1=CC(=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C)C#N | C25H25N7O
